US07417045B2
Benzaldehyde (19 mL, 19 g, 0.18 mol) was added to a solution of D-alanine methyl ester hydrochloride (25 g, 0.18 mol) in dry CH2Cl2 (300 mL). The solution was stirred at 22° C. for 19 h. The reaction mixture was cooled with an ice-water bath and solid sodium triacetoxyborohydride (46 g, 0.22 mol) was added in portions over ˜15 min. The cooling bath was removed and the milky white solution was stirred at 22° C. for 7 h. The solvent was removed by rotary evaporation under reduced pressure and the resulting slush was partitioned between EtOAc (˜100 mL) and 1 N HCl (˜400 mL). The aqueous layer was extracted with EtOAc (˜50 mL). The aqueous layer was adjusted to pH ˜10 with 1 N NaOH (450 mL) and the milky aqueous layer was extracted immediately with EtOAc (3×250 mL). The combined organic layers were washed with brine (˜250 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to afford N-benzyl-D-alanine methyl ester (28 g, 80%) as a colorless semi-solid.

reactant | Benzaldehyde | 0.18 mol, 19 mL, 19 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | D-alanine methyl ester hydrochloride | 0.18 mol, 25 g | Cl.COC([C@H](N)C)=O
reactant | sodium triacetoxyborohydride | 0.22 mol, 46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-D-alanine methyl ester | 28 g, 80% | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
